2157-03-23 10:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2157-3-22**] 08:27 AM
 NON-INVASIVE VENTILATION - START [**2157-3-22**] 09:00 AM
 SPUTUM CULTURE - At [**2157-3-22**] 02:35 PM
 URINE CULTURE - At [**2157-3-22**] 02:35 PM
 ARTERIAL LINE - START [**2157-3-22**] 04:35 PM
 ARTERIAL LINE - STOP [**2157-3-22**] 08:30 PM
 FEVER - 101.7
F - [**2157-3-22**] 07:00 AM
   -patient placed on BiPAP for low O2 sats 11 a.m., sats improved but
   while on BiPAP MS [**First Name (Titles) **] [**Last Name (Titles) 11822**] and PCO2 increased to 125, minute
   ventilation roughly 3, she was placed on a rate (20x550) and her MV
   increased to [**5-19**], PCO2 improved to 80 and MS improved slightly.
   Eventually patient became interactive, AOx1 (name, [**2149**], in [**Location (un) 11823**]) suggesting contribution from med effect (zyprexa)
   -family updated
   -Rheum consulted- inclusion body myositis is a slowly progressive
   disease that eventually ends in respiratory failure, usually not
   steroid responsive but could be an approach if patient not improving
   -Neuro consult- suggested repeat Head CT, she went down for CT but
   unable to lay still, given improvement in MS this was deferred until
   a.m. rather than sedating patient for this test.  EEG to be performed
   but neuro thinks this was not a seizure.
   -p.m. Na 147 (stable)- free H20 increased from 250q6h to 250q4.
   -family confirms DNR/DNI, unsure as to why no anticoagulation for afib
   -insulin sliding scale ordered
   -lopressor increased to 50mg po tid for afib w/ RVR to 120
   -L radial a line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-22**] 08:00 AM
   Ceftriaxone - [**2157-3-22**] 11:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2157-3-22**] 06:56 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-23**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 69 (66 - 121) bpm
   BP: 162/72(95) {113/50(64) - 184/90(101)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    771 mL
                                                                    120 mL
   PO:
                                                                    620 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    360 mL
   Urine:
                                                                    935 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -464 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 348 (322 - 348) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 7 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: 7.35/81.[**Numeric Identifier 607**]/86/44/15
   Ve: 6.2 L/min
   PaO2 / FiO2: 246
   Physical Examination
   GENERAL:  elderly woman on BPAP, awake
   NEURO: oriented to name only, no jerking movement, no tremor, moving
   all four extremities
   HEENT: EOMI, PERRL
   CARDIAC: Tachycardiac, irregularly irregular rhythm, no murmur
   auscultated, JVP not assessible due to obesity
   LUNG: Decreased breath sounds bilaterally, no crackles or wheezes
   ABDOMEN: soft, NT, ND
   EXT: 1+ edema bilaterally
   Labs / Radiology
   184 K/uL
   10.4 g/dL
   98 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.7 mEq/L
   18 mg/dL
   96 mEq/L
   145 mEq/L
   35.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
   WBC
   11.8
   Hct
   35.5
   Plt
   184
   Cr
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   77-year-old woman with history of DM2, morbid obesity, COPD,
   afib/flutter, HTN, dementia presented from nursing home with altered
   mental status then developed ?seizures during the ride back to nursing
   home from ED.
   .
   # Altered mental status: with somnolence and unresponsive at NH, but no
   longer somnolent after some time on BPAP; currently delirious,
   screaming out "[**First Name4 (NamePattern1) 906**] [**Last Name (NamePattern1) 11805**]". Head CT negative. Might be due to
   hypercarbia with pCO2 in the 80s as seen in ABG in ED; baseline might
   be the 70s. Possible pneumonia might contribute to her altered mental
   status. Other possible contributing factors include hypernatremia, UTI.
   The seizure-like movements observed by EMS are unlikely to cause the
   altered mental status, which preceded the seizure.
   - treat COPD as below
   - treat pneumonia, UTI, hypernatremia as below
   - frequent orientation
   - minimize meds if possible
   - avoid physical restraints if possible
   .
   # Atrial fibrillation with RVR: HR 150s on arrival to MICU with stable
   BP. Responded to initial diltiazem. However, will switch her to beta
   blocker as she takes atenolol at home. Patient likely missed PO dose
   today.
   - metoprolol IV as needed
   - start metoprolol 25 mg [**Hospital1 **]
   - continue flecainide
   - no anticoagulation as before
   .
   # Possible seizures: witnessed by EMS to have tonic-clonic jerks for
   three minutes after initial discharge from ED. Has no history of
   seizures. Head CT was negative. ?CNS infection. Does not appear to have
   ongoing seizures; current mental status is delirious.
   - consult neuro in a.m.
   - monitor closely
   .
   # Possible pneumonia: CXR with possible retrocardiac opacity, but in
   fact not very different from old CXRs. With new leukocytosis though, it
   is reasonable to treat while obtaining more micro data. Might
   precipitate COPD flare.
   - continue levofloxacin for now; hold vancomycin for now as patient has
   no history of MRSA; will expand abx if clinically worsens
   - sputum G-stain and culture
   .
   # COPD exacerbation: unclear history of COPD, which is mentioned in
   some records but not in others. Patient is not on inhalers at
   outpatient. ABG and chemistry panel suggest chronic CO2 retention with
   pCO2 likely in the 60-70s at baseline. Currently exam reveals diffuse
   poor aeration but no wheezing.
   - nebs prn
   - continue outpatient steroids (likely for ?polymyositis)
   - BPAP support overnight to help with ventilation; will wean off in
   a.m.
   - see chronic respiratory acidosis discussion below
   .
   # Possible UTI: WBC [**12-3**] with mod bac and mod leuks. Cannot answer
   questions on symptoms.
   - repeat u/a
   - obtain urine cx
   - hold UTI-specific treatment (already on levoflox for pneumonia)
   .
   # Leukocytosis: WBC 10 on first visit to the ED but increased to 16
   upon returning. Given the short time interval in between, it is
   unlikely to be due to an infection, especially with no left shift and
   absence of fever. Might be reactive leukocytosis.
   - empiric treatment for pneumonia as above given altered mental status;
   will stop treatment once micro data become available or clinical status
   changes
   - trend WBC
   .
   # Chronic respiratory acidosis: with compensatory metabolic alkalosis.
   Her HCO3 in the 40s is an appropriate response to chronic PCO2 in 70s.
   HCO3 from [**2153**] also in the 40s. Etiology is likely her obstructive lung
   disease.
   - BPAP for now for PCO2 85 but avoid aggressive ventilation as her
   baseline PCO2 is likely in the 70s
   - no need to treat appropriately elevated HCO3 in serum
   .
   # Hypernatremia: Na 147. Might be due to impaired access to free water
   due to altered mental status.
   - free water boluses q6h
   - [**Hospital1 **] electrolytes
   .
   # ?h/o of CHF: received furosemide in ED. However, there is no clear
   evidence of pulmonary edema radiographically or clinically. BNP is 814
   now but was 1200 in [**2153**].
   - monitor fluid status clinically
   - hold home furosemide PO today as patient already received IV dose;
   will restart tomorrow
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  DNR/DNI
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-3-22**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-03-23 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77-year-old woman w/ morbid obesity, inclusion body myositis, dementia
   presented from [**Hospital1 169**] brought to ED [**3-21**] with lethargy. Apparent UTI +/-
   pneumonia, possible seizure.
   24 Hour Events:
   RVR yest w/ increased metoprolol. A line pulled out this am by patient.
   Improved interaction w/ BiPAP
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-22**] 08:00 AM
   Ceftriaxone - [**2157-3-22**] 11:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2157-3-22**] 06:56 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-22**] 08:00 PM
   Other medications:
   Lipitor, Duloxetine, Flecainide, Neurontin, Prilosec, Prednisone,
   Actonel, CTX, Doxycycline, Nystatin S&S, Ipratropium, Lopressor, RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-23**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 69 (66 - 121) bpm
   BP: 162/72(95) {113/50(64) - 184/90(101)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    771 mL
                                                                    120 mL
   PO:
                                                                    620 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    360 mL
   Urine:
                                                                    935 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -464 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 348 (322 - 348) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 7 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: 7.35/81.[**Numeric Identifier 607**]/86/44/15
   Ve: 6.2 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name and place but not time, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   184 K/uL
   98 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.7 mEq/L
   18 mg/dL
   96 mEq/L
   145 mEq/L
   35.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
   WBC
   11.8
   Hct
   35.5
   Plt
   184
   Cr
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL,
   PO4:1.9 mg/dL
   Imaging: CXR- low vols slightly better
   Microbiology: Urine cx- pending
   Assessment and Plan
   77-year-old woman w/ morbid obesity, inclusion body myositis, dementia
   presented from [**Hospital1 169**] brought to ED [**3-21**] with lethargy. Apparent UTI +/-
   pneumonia, possible seizure.
   1. Confusion- underlying dementia, probable infection + hypercarbia
   leading to somnolence. Currently clearing. Possible seizure on admit
   per EMS records.
   -treat infection and hypercarbic distress as below
   -per Neuro supp mgmt
   2. Hypercarbic resp distress- resolving, underlying inclusion body
   myositis per report, with concom poss pneumonia
   -BiPAP at night for chronic hypoventilation
   -baseline hypercarbia likely high 70s
   -titrate supp O2 to  maintain SpO2 88-92%
   -pna tx w/ CTX + doxycycline; plan for empiric 7d course
   3. Inclusion body myositis- per Rheum no need to worry about flare
   -cont chronic steroids
   4. Probable UTI- ABX as above, f/u cx data
   5. Afib
   - cont metoprolol 25 mg [**Hospital1 **]
   - continue flecainide
   - touch base w/ primary care doc re: anticoag
   6. Hypernatremia: Na 145. Might be due to impaired access to free water
   due to altered mental status.
   -slowly resolving, encourage free H2O intake
   7. Thrush- nystatin s&s
   ICU Care
   Nutrition:
   Comments: cautious po today
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-3-22**] 04:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  will touch base w/ family about long-term
   prognosis
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 9152**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   77 yo women with inclusion body myositis, and acute on chronic
   respiratory failure.  Patient more awake today.  Pleasant, answering
   questions.  Says she wants to go home.
   Exam:  notable for diminished breath sounds.  No peripheral edema
   A/P
   Acute on chronic respiratory failure;  improved with mask ventilation.
   [**Month (only) 60**] be been precipitated from the UTI.   Continue night time bipap.
   Poor MS:  Likely from respiratory failure.
   Hypernatremia:  can give free water.
   Transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2157-3-23**] 13:23 ------

2157-03-24 11:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2157-3-23**] 04:00 PM
   -patient pulled out a-line
   -O2 Sat better on 2L
   -[**Doctor First Name 2391**] spoke to NH who asked she not come back today but said they
   would take her tomorrow from ICU
   -I spoke to her adopted daughter who is guardian - she is aware that
   patient has a progressive disease and statees that the goals arranged
   and recent NH family meeting were focuses on comfort measures....states
   she was told the patient's "vital organs were failing"
   - afib with RVR to 130s, improved to low 100s with 5 mg IV
   metoprolol-->increased standing dose to 75 mg tid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-22**] 08:00 AM
   Ceftriaxone - [**2157-3-23**] 10:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-23**] 08:00 PM
   Metoprolol - [**2157-3-23**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-24**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 83 (63 - 118) bpm
   BP: 168/87(108) {116/60(73) - 209/112(125)} mmHg
   RR: 21 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    798 mL
                                                                    713 mL
   PO:
                                                                    410 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    388 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    860 mL
   Urine:
                                                                  1,165 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -368 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///40/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   10.8 g/dL
   152 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   35.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
                             [**2157-3-24**]  05:16 AM
   WBC
   11.8
   11.8
   Hct
   35.5
   35.7
   Plt
   184
   209
   Cr
   0.9
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   152
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   77-year-old woman with history of DM2, morbid obesity, COPD,
   afib/flutter, HTN, dementia presented from nursing home with altered
   mental status then developed ?seizures during the ride back to nursing
   home from ED.
   .
   # Altered mental status: with somnolence and unresponsive at NH, but no
   longer somnolent. Now intermittently delirious. Most likely
   multifactorial with pneumonia. Current mental status might not be much
   different baseline.
   - treat COPD as below
   - treat pneumonia as below
   - frequent orientation
   - minimize meds if possible
   - avoid physical restraints if possible
   .
   # Pneumonia: CXR with possible retrocardiac opacity, but in fact not
   very different from old CXRs. CXR today better. Leukocytosis improving.
   - continue empiric ceftriaxone, doxy
   - repeat sputum cx as prior sample was contaminated
   .
   # Paroxysmal atrial fibrillation: was in RVR on arrival to MICU, now in
   sinus.
   - continue metoprolol 50 mg tid
   - continue flecainide
   - no anticoagulation
   .
   # Possible seizures: witnessed by EMS to have tonic-clonic jerks for
   three minutes after initial discharge from ED. Has no history of
   seizures. Head CT was negative. Does not appear to have ongoing
   seizures; current mental status is intermittently delirious.
   - repeat head CT
   - no strong indication for EEG now.
   .
   # Chronic respiratory acidosis: with compensatory metabolic alkalosis.
   Her HCO3 in the 40s is an appropriate response to chronic PCO2 in 70s.
   HCO3 from [**2153**] also in the 40s.
   - BPAP at night
   - no need to treat appropriately elevated HCO3 in serum
   .
   # Hypernatremia: Na 147 on admission, now 145 after free water intake.
   - monitor
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  DNR/DNI
   # CONTACT:
   # DISPO: back to rehab today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-03-24 11:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77-year-old woman w/ morbid obesity, inclusion body myositis, dementia
   presented from [**Hospital1 169**] brought to ED [**3-21**] with lethargy. Apparent UTI +/-
   pneumonia, possible seizure.
   24 Hour Events:
   fever to [**Age over 90 144**] yest pm. afib overnight but asymptomatic. not transferred
   to [**Hospital1 169**] due to some bed issue at [**Hospital1 169**]. Pulled IV today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-22**] 08:00 AM
   Ceftriaxone - [**2157-3-23**] 10:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-23**] 08:00 PM
   Metoprolol - [**2157-3-23**] 11:30 PM
   Other medications:
   Lipitor, Duloxetine, flecainide, Neurontin, Prilosec, Prednisone,
   Actonel, CTX, doxycycline, nystatin, Atrovent, Lopressor 75 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-24**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 83 (63 - 118) bpm
   BP: 168/87(108) {116/60(73) - 209/112(125)} mmHg
   RR: 21 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    798 mL
                                                                    713 mL
   PO:
                                                                    410 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    388 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    860 mL
   Urine:
                                                                  1,165 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -368 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///40/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   209 K/uL
   152 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   35.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
                             [**2157-3-24**]  05:16 AM
   WBC
   11.8
   11.8
   Hct
   35.5
   35.7
   Plt
   184
   209
   Cr
   0.9
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   152
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   Microbiology: [**3-22**] Sputum- poor sample
   [**3-22**] Blood- neg to date
   [**3-22**] urine- neg
   Assessment and Plan
   77-year-old woman w/ morbid obesity, inclusion body myositis, dementia
   presented from [**Hospital1 169**] brought to ED [**3-21**] with lethargy. Apparent UTI +/-
   pneumonia, possible seizure.
   1. Confusion- underlying dementia, probable infection + hypercarbia
   leading to somnolence. Currently clearing. Possible seizure on admit
   per EMS records.
   -treat infection and hypercarbic distress as below
   -per Neuro supp mgmt
   2. Hypercarbic resp distress- resolving, underlying inclusion body
   myositis per report, with concom poss pneumonia
   -BiPAP at night for chronic hypoventilation
   -baseline hypercarbia likely high 70s
   -titrate supp O2 to  maintain SpO2 88-92%
   -pna tx w/ CTX + doxycycline; plan for empiric 7d course
   3. Inclusion body myositis- per Rheum no need to worry about flare
   -cont chronic steroids
   4. Probable UTI- ABX as above, f/u cx data
   5. Afib
   - cont metoprolol 25 mg [**Hospital1 **]
   - continue flecainide
   - touch base w/ primary care doc re: anticoag
   6. Hypernatremia: Na 145. Might be due to impaired access to free water
   due to altered mental status.
   -slowly resolving, encourage free H2O intake
   7. Thrush- nystatin s&s
   ICU Care
   Nutrition:
   Comments: po
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 9152**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   77 yo women with  with inclusion body myositis, presents with acute on
   chronic respiratory failure.  Discussions with family about progressive
   nature of her disease have prompted likelihood that she will be
   discharged home to hospice.  Family meeting later today.
   Exam:  currently pat arousable, but confused.  Lungs with decreased
   breath sounds b/l.  CV: reg.  ext: no edema
   A/P
   Acute on chronic respiratory failure due to progressive myopathy.
   Continue BIPAP as needed.  Home with hospice tomorrow.
   DNR/DNI.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2157-3-24**] 16:11 ------

2157-03-25 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family decided on hospice
   - tentatively arranged for family meeting at 1 p.m.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2157-3-22**] 08:00 AM
   Ceftriaxone - [**2157-3-23**] 10:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 69 (59 - 132) bpm
   BP: 125/56(36) {102/46(36) - 180/84(146)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    963 mL
                                                                    100 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    663 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    180 mL
   Urine:
                                                                  1,030 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -68 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL:  elderly woman on room air, awake, oriented x 3
   HEENT: EOMI, PERRL
   CARDIAC: RR, nl S1/S2, no murmur auscultated, JVP not assessible due to
   obesity
   LUNG: Decreased breath sounds bilaterally, no crackles or wheezes
   ABDOMEN: soft, NT, ND
   EXT: 1+ edema bilaterally
   Labs / Radiology
   209 K/uL
   10.8 g/dL
   152 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   35.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
                             [**2157-3-24**]  05:16 AM
   WBC
   11.8
   11.8
   Hct
   35.5
   35.7
   Plt
   184
   209
   Cr
   0.9
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   152
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   77-year-old woman with history of DM2, morbid obesity, COPD,
   afib/flutter, HTN, dementia presented from nursing home with altered
   mental status then developed ?seizures during the ride back to nursing
   home from ED.
   .
   # Respiratory difficulty: multifactorial from obesity, myopathy,
   ?obstructive disease.
   - continue night BiPAP
   - continue prednisone for her inclusion body myositis
   - discuss with family re: goal of care
   .
   # Recent altered mental status: with somnolence and unresponsive at NH,
   but no longer somnolent. Was intermittently delirious but mental status
   is improving; she is now oriented x 3.
   .
   # Pneumonia: CXR with possible retrocardiac opacity, but in fact not
   very different from old CXRs. Subsequent CXRs better. Leukocytosis
   improving.
   - cefpodoxime, doxy to finish 7-day course
   .
   # Paroxysmal atrial fibrillation: was in RVR on arrival to MICU, back
   sinus, then intermittently in afib.
   - continue metoprolol 75 mg tid
   - continue flecainide
   - no anticoagulation
   .
   # Possible seizures: witnessed by EMS to have tonic-clonic jerks for
   three minutes after initial discharge from ED. Has no history of
   seizures. Head CT was negative. Does not appear to have ongoing
   seizures.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: no PIV
   # CODE:  DNR/DNI
   # CONTACT:  daughter
   # DISPO: back to rehab today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-03-25 10:53:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo women with respiratory failure, inclusion body myositis.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-3-23**] 10:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-24**] 08:00 PM
   Other medications:
   fluoxetine
   prednison
   actonel
   flecanide
   doxy
   nystatin
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-25**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 66 (59 - 132) bpm
   BP: 140/80(103) {102/46(36) - 180/84(146)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    963 mL
                                                                    500 mL
   PO:
                                                                    300 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    663 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    240 mL
   Urine:
                                                                  1,030 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -68 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   209 K/uL
   152 mg/dL
   0.9 mg/dL
   40 mEq/L
   3.8 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   35.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2157-3-22**]  03:13 AM
                             [**2157-3-22**]  05:50 AM
                             [**2157-3-22**]  01:02 PM
                             [**2157-3-22**]  01:30 PM
                             [**2157-3-22**]  04:27 PM
                             [**2157-3-22**]  08:44 PM
                             [**2157-3-22**]  10:03 PM
                             [**2157-3-23**]  03:56 AM
                             [**2157-3-24**]  05:16 AM
   WBC
   11.8
   11.8
   Hct
   35.5
   35.7
   Plt
   184
   209
   Cr
   0.9
   0.9
   TCO2
   47
   49
   52
   50
   47
   46
   47
   Glucose
   98
   152
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   Respiratory failure:  to go back to the NH with hospice.  Will allow
   bipap as needed for comfort
   MS:  close to baseline
   PNA:  day [**4-20**] Cefpodoxime and doxycyline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Hospital1 169**] with hospice
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes